US08076491B2
3-(methoxymethyl)benzaldehyde
3-(bromomethyl)benzaldehyde (1.00 g, 5.02 mmol) was dissolved in MeOH (100 mL) and treated with 0.5M solution of MeONa (5 equiv.) in MeOH. The mixture was stirred overnight at RT and MeOH was evaporated under reduced pressure. The residue was acidified to pH ˜6 with 1M aqueous HCl solution. DCM (100 mL) was added and the mixture was vigorously stirred overnight. The organic layer was separated, dried over Na2SO4 and the solvent was removed under reduce pressure to furnish the desired material as yellowish oil (560 mg, 3.75 mmol, 74%). 1H NMR (DMSO, 400 MHz): 3.33 (s, 3H), 4.51 (s, 1H), 7.62 (m, 2H), 7.85 (m, 2H), 10.02 (s, 1H). MS 151 (MH+).

reactant | 3-(bromomethyl)benzaldehyde | 5.02 mmol, 1.00 g | BrCC=1C=C(C=O)C=CC1 | C8H7BrO
reactant | MeONa | 5 equiv. | CO[Na]
solvent | MeOH | 100 mL | CO | CH4O
product | 3-(methoxymethyl)benzaldehyde | 3.75 mmol, 560 mg, 74% | COCC=1C=C(C=O)C=CC1 | C9H10O2
